US06589970B2
Step 7: 2-Butyl-benzofuran-3-carboxylic acid [5-bromo-6-(1 H-tetrazol-5-ylmethoxy)-naphthalen-2-ylmethyl]-methyl-amide.
A mixture of 2-butyl-benzofuran-3-carboxylic acid (5-bromo-6-cyanomethoxy-naphthalen-2-ylmethyl)-methyl-amide (0.3 g, 0.59 mmol), prepared in the previous step, sodium azide (0.116 g, 1.78 mmol) and ammonium chloride (0.095 g, 1.78 mmol) in 12 mL DMF was stirred under nitrogen at 100° C. for 6.5 h. The reaction was diluted with water, made basic with 1N NaOH, and extracted three times with ethyl acetate. The organic layers were combined, acidified with 1N HCl, dried (MgSO4) and the solvent removed under reduced pressure to give an oily residue. The oil was diluted with water and the solid that formed was collected by filtration, rinsed with water and dried under reduced pressure to give the title compound (0.20 g, 63%) as an off white solid, mp 190-194° C.

reactant | 2-butyl-benzofuran-3-carboxylic acid (5-bromo-6-cyanomethoxy-naphthalen-2-ylmethyl)-methyl-amide | 0.59 mmol, 0.3 g | BrC1=C2C=CC(=CC2=CC=C1OCC#N)CN(C(=O)C1=C(OC2=C1C=CC=C2)CCCC)C | C27H25BrN2O3
reactant | sodium azide | 1.78 mmol, 0.116 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 1.78 mmol, 0.095 g | [Cl-].[NH4+]
reactant | NaOH | 1N | [OH-].[Na+]
solvent | DMF | 12 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-Butyl-benzofuran-3-carboxylic acid [5-bromo-6-(1 H-tetrazol-5-ylmethoxy)-naphthalen-2-ylmethyl]-methyl-amide | 0.20 g, 63% | BrC1=C2C=CC(=CC2=CC=C1OCC1=NN=NN1)CN(C(=O)C1=C(OC2=C1C=CC=C2)CCCC)C | C27H26BrN5O3
